US05206149
9.9 ml (70.5 mmol) of 2,4-dichlorobenzoyl chloride and 2.0 g (12.4 mmol) of 4-aminoresorcinol hydrochloride were introduced into a three-necked flask provided with a thermometer and a cooling condenser, and the mixture was heated at 172° to 247° C. for 1 hour, then excessive acid chloride was removed by distillation. To the residue, 6.47 g (161.8 mmol) of NaOH, 60 ml of THF, 60 μl of water and 30 ml of methanol were added, and the mixture was stirred at room temperature for about 2 hours. The reaction solution was extracted with ethyl acetate, the extract was washed with saturated sodium chloride water solution, and ethyl acetate was distilled off. Recrystallizing the residue with water/methanol/THF and drying the crystal, there was obtained 915 mg (3.27 mmol) of 2-(2,4-dichlorophenyl)-6-hydroxybenzoxazole. The yield was 26.3%.

reactant | 2,4-dichlorobenzoyl chloride | 70.5 mmol, 9.9 ml | ClC1=C(C(=O)Cl)C=CC(=C1)Cl | C7H3Cl3O
reactant | 4-aminoresorcinol hydrochloride | 12.4 mmol, 2.0 g | Cl.NC1=C(C=C(O)C=C1)O
reactant | NaOH | 161.8 mmol, 6.47 g | [OH-].[Na+]
reactant | THF | 60 ml | C1CCOC1 | C4H8O
solvent | methanol | 30 ml | CO | CH4O
solvent | water | 60 μl | O | H2O
product | 2-(2,4-dichlorophenyl)-6-hydroxybenzoxazole | 3.27 mmol, 915 mg, yield was 26.3% | ClC1=C(C=CC(=C1)Cl)C=1OC2=C(N1)C=CC(=C2)O | C13H7Cl2NO2
